US06137003
Methyl 4-amino-3-octoxybenzoate (3.47 g, 12.4 mmol) and ethylene oxide (4.5 g, 198 mol) were dissolved in 100 mL acetic acid to form a reaction mixture. The mixture was stirred at room temperature for 12 hours. It was then diluted with H2O (500 mL), extracted with chloroform/methanol (95/5, 4×100 mL). The organic extract was concentrated to brown oil. Flash chromatographic purification (silica gel, 5% to 10% methanol in chloroform) afforded the intermediate methyl 4-bis(2'-hydroxyethyl)amino-3-octoxybenzoate as an off-white oil (2.25 g, 42%). 1H NMR (300 MHz, CDCl3): 7.62 (dd, J=8.1, 2.1 Hz, 1H), 7.55 (d, J=2.1 Hz, 1H), 7.12 (d, J=8.4 Hz, 1H), 4.06 (t, J=6.9 Hz, 2H), 3.90 (s, 3H), 3.64 (t, J=5.1 Hz, 4H), 3.38 (t, J=5.1 Hz, 4H), 1.86 (J=5.1 Hz, 2H), 1.30 (m, 10H), 0.89 (t, J=6.9 Hz, 3H). ESMS calcd (C20H33NO5): 367.2; found: 390.3 (N+Na)+.

reactant | Methyl 4-amino-3-octoxybenzoate | 12.4 mmol, 3.47 g | NC1=C(C=C(C(=O)OC)C=C1)OCCCCCCCC | C16H25NO3
reactant | ethylene oxide | 198 mol, 4.5 g | C1CO1 | C2H4O
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 500 mL | O | H2O
product | methyl 4-bis(2'-hydroxyethyl)amino-3-octoxybenzoate | 2.25 g, 42% | OCCN(C1=C(C=C(C(=O)OC)C=C1)OCCCCCCCC)CCO | C20H33NO5
